US04874395
Preparation of dodecenyl succinic anhydride-propylene glycol adducts:
A mixture of 1.2 mol of dodecenylsuccinic anhydride, 0.9 mol of propylene glycol and 40% by weight heavy aromatic naphtha was heated at 130° C. in a 1 L 3-necked, round bottomed flask equipped with a condenser and a mechanical stirrer for 6.5 hours.

reactant | dodecenylsuccinic anhydride | 1.2 mol | C(=CCCCCCCCCCC)C1C(=O)OC(C1)=O | C16H26O3
reactant | propylene glycol | 0.9 mol | C(C(C)O)O | C3H8O2
product | dodecenyl succinic anhydride propylene glycol | C(=CCCCCCCCCCC)C1C(=O)OC(C1)=O.C(C(C)O)O | InChI=1S/C16H26O3.C3H8O2/c1-2-3-4-5-6-7-8-9-10-11-12-14-13-15(17)19-16(14)18;1-3(5)2-4/h11-12,14H,2-10,13H2,1H3;3-5H,2H2,1H3
